* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD8655.asc
* Generated by LTspice 24.1.9 for Windows.
Vin IN 0 SINE(0 1 100k)
V1 +V 0 2.5
R1 N001 0 10k
R2 OUT N001 10k
V2 -V 0 -2.5
Rload OUT 0 10k
X§U1 IN N001 +V -V OUT AD8655
.tran 100u
.lib AD8655.sub
.backanno
.end
